US09062044B2
Step A: 8-(2,4-dimethyl-benzenesulfonyl)-3,8-diaza-bicyclo[4.2.0]octane-3-carboxylic acid tert-butyl ester.
3,8-Diaza-bicyclo[4.2.0]octane-3-carboxylic acid tert-butyl ester (240 mg, 1.1 mmol), 2,4-dimethyl-benzenesulfonyl chloride (278 mg, 1.4 mmol) and di-isopropylethylamine (0.4 mL, 2.3 mmol) were dissolved into DCM (5.0 mL) and stirred at room temperature for 18 h. The reaction mixture was diluted with DCM (25 mL) and washed with 1N NaOH (10 mL) and water (2×20 mL). The organic layers were combined, dried, filtered and concentrated to yield the title compound (300 mg, 97%).

reactant | 3,8-Diaza-bicyclo[4.2.0]octane-3-carboxylic acid tert-butyl ester | 1.1 mmol, 240 mg | C(C)(C)(C)OC(=O)N1CC2NCC2CC1 | C11H20N2O2
reactant | 2,4-dimethyl-benzenesulfonyl chloride | 1.4 mmol, 278 mg | CC1=C(C=CC(=C1)C)S(=O)(=O)Cl | C8H9ClO2S
reactant | di-isopropylethylamine | 2.3 mmol, 0.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5.0 mL | C(Cl)Cl | CH2Cl2
product | 8-(2,4-dimethyl-benzenesulfonyl)-3,8-diaza-bicyclo[4.2.0]octane-3-carboxylic acid tert-butyl ester | 300 mg, 97% | C(C)(C)(C)OC(=O)N1CC2N(CC2CC1)S(=O)(=O)C1=C(C=C(C=C1)C)C | C19H28N2O4S
